US06589970B2
A mixture of 2-butyl-benzofuran-3-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-yl)-amide (351 mg, 0.801 mmol), prepared in the previous step, bromoacetonitrile (67 μL, 0.962 mmol) and potassium carbonate (559 mg, 4.05 mmol) in 15 mL of DMF was stirred under nitrogen at room temperature for 19 h (overnight). The reaction was partitioned between ethyl acetate and water. The organic layer was separated, washed five times with water, dried (MgSO4) and the solvent removed under reduced pressure to give 2-butyl-benzofuran-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-yl)-amide (364 mg, 95%) as a yellow solid, mp 155-159° C.

reactant | 2-butyl-benzofuran-3-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-yl)-amide | 0.801 mmol, 351 mg | BrC1=C2C=CC(=CC2=CC=C1O)NC(=O)C1=C(OC2=C1C=CC=C2)CCCC | C23H20BrNO3
reactant | bromoacetonitrile | 0.962 mmol, 67 μL | BrCC#N | C2H2BrN
reactant | potassium carbonate | 4.05 mmol, 559 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-butyl-benzofuran-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-yl)-amide | 364 mg, 95% | BrC1=C2C=CC(=CC2=CC=C1OCC#N)NC(=O)C1=C(OC2=C1C=CC=C2)CCCC | C25H21BrN2O3
